US05597832
30a. 2-(3-Methylbutyl)thiophene
Isopentyl bromide (Aldrich, 8 g, 53mmol) was added to 53 mL of an ice-cooled solution of lithiothiophene (1.0M in THF, 53 mmol). The reaction was stirred at 0° C. for 2 hours, at room temperature for 16 hours, and poured into water, then the mixture was extracted with hexane. The organic layer was dried and concentrated, and the residue was purified by column chromatography on silica gel, eluting with hexane, to give 7.2 g (88% yield) of the title compound as a colorless oil. NMR (CDCl3) δ:7.10 (dd, J=1, 6 Hz, 1H), 6.90 (dd, J=4, 6 Hz, 1H), 6.78 (dd, J=1, 4 Hz, 1H), 2.84 (t, J=8 Hz, 2H), 1.7-1.5 (m, 3H), 0.94 (d, J=6 Hz, 6H).

reactant | Isopentyl bromide | 53mmol, 8 g | C(CC(C)C)Br | C5H11Br
reactant | lithiothiophene | 53 mmol, 1.0M | [Li]C=1SC=CC1
solvent | water | O | H2O
product | 2-(3-Methylbutyl)thiophene | 7.2 g, 88% yield | CC(CCC=1SC=CC1)C | C9H14S
